US07632850B2
3.1. 3-[2-(4-bromophenyl)ethyl]-1,3-oxazolidine-2,4-dione
The procedure described in Example 2 (step 2.1.) is used; starting from 4 g (19.89 mmol) of 2-(4-bromophenyl)ethanol, 6.3 g (23.87 mmol) of triphenylphosphine, 2.4 g (23.87 mmol) of 1,3-oxazolidine-2,4-dione and 4.8 g (23.87 mmol) of diisopropyl azodicarboxylate, 4.6 g of pure product are obtained in the form of a white solid, after chromatography on silica gel, eluting with dichloromethane.

reactant | 2-(4-bromophenyl)ethanol | 19.89 mmol, 4 g | BrC1=CC=C(C=C1)CCO | C8H9BrO
reactant | triphenylphosphine | 23.87 mmol, 6.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1,3-oxazolidine-2,4-dione | 23.87 mmol, 2.4 g | O1C(NC(C1)=O)=O | C3H3NO3
reactant | diisopropyl azodicarboxylate | 23.87 mmol, 4.8 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
product | 3-[2-(4-bromophenyl)ethyl]-1,3-oxazolidine-2,4-dione | BrC1=CC=C(C=C1)CCN1C(OCC1=O)=O | C11H10BrNO3
